US07109219B2
N1-Methyl-5-(2-(4-oxopiperidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide
Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (440 mg, 0.841 mmol) synthesized in Production example 5-2 was dissolved in N,N-dimethylformamide (5 ml); triethylamine (0.543 ml, 3.90 mmol) and 4-piperidone hydrochloride monohydrate (0.530 g, 3.93 mmol) were added thereto; and the reaction mixture was stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was concentrated to yield the title compound (0.202 g, 0.496 mmol, 59%) as a colorless amorphous solid.

reactant | Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 0.841 mmol, 440 mg | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C29H22N4O6
reactant | triethylamine | 3.90 mmol, 0.543 ml | C(C)N(CC)CC | C6H15N
reactant | 4-piperidone hydrochloride monohydrate | 3.93 mmol, 0.530 g | O.Cl.N1CCC(CC1)=O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N1-Methyl-5-(2-(4-oxopiperidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 0.496 mmol, 0.202 g, 59% | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)=O | C21H21N5O4
